US07381826B2
(2-chlorophenyl)-[2-(2-hydroxy-2-pyridin-4-yl-vinyl)pyridin-3-yl]methanone
To a solution of (2-chloro-phenyl)-(2-fluoropyridin-3-yl)methanol (140 g, 0.59 mol) in dichloromethane (1.1 L) under an argon atmosphere, add 2,2,6,6-tetramethyl-1-piperidinyloxy (TEMPO) (1.43 g, 9.15 mmol) and potassium bromide (10% w/w in water, 57.1 mL, 0.048 mol). To the resulting mixture add a solution of sodium hypochlorite (13% w/w active chlorine in water, 403 mL, 0.85 mol) and sodium bicarbonate (20.3 g, 0.24 mol) in water (403 mL) while stirring vigorously and while maintaining the temperature below 20° C. Continue stirring the reaction mixture for 30 min or until the reaction is complete. Separate the layers, and concentrate the organic layer to approximately 200 mL total volume. Add dimethylsulfoxide and concentrate until no dichloromethane remains in the solution. Add 4-acetylpyridine (107 g, 0.88 mol) and powdered lithium hydroxide (28.2 g, 1.17 mol) and stir at 60° C. for 2.5 h or until the reaction is complete. Cool to ambient temperature and add dichloromethane (1.4 L) and an aqueous solution of 10% sodium chloride (1.3 L) while maintaining the temperature between 20° C. and 24° C. Separate the layers and extract the aqueous layer with dichloromethane (1.4 L). Separate the layers and combine the organic layers. Wash the combined organic layers with an aqueous solution of 10% sodium chloride (3×2.6 L). Concentrate the organic layer to approximately 500 mL total volume, then add methanol (1.0 L). Concentrate under vacuum until the weight of the resulting residue is approximately 500 g, then add more methanol (207 mL). Heat the solution to 60° C. When the temperature reaches 45° C., add phosphoric acid (85% w/w in water, 67.4 g, 0.58 mol). Stir the resulting slurry at 22° C. for 16 h. Collect the resulting solid by filtration and wash with methanol (3×65 mL) and water (3×65 mL). Add the resulting solid to a solution of potassium carbonate (49.3 g, 0.356 mol) in water (714 mL) and stir for 4 h. Collect the resulting solid by filtration, wash with water (50 mL) and dry under vacuum at 50° C. to afford the title compound as an orange solid. 1H NMR (400 MHz, DMSO-D6) δ ppm 4.89 (s, 2H) 6.93 (d, J=7.33 Hz, 1H) 7.09 (s, 1H) 7.11-7.17 (m, 2H) 7.24 (dd, J=7.58, 5.31 Hz, 1H) 7.40-7.67 (m, 15H) 7.71-7.77 (m, 3H) 7.85 (d, J=7.83 Hz , 1H) 7.89 (d, J=6.06 Hz, 2H) 8.15 (d, J=7.58 Hz, 1H) 8.50 (d, J=3.79 Hz, 1H) 8.62 (d, J=3.79 Hz, 3H) 8.67 (d, J=5.81 Hz, 2H) 8.73 (dd, J=4.80, 1.52 Hz, 1H) 8.83 (d, J=5.81 Hz, 1H).

reactant | (2-chloro-phenyl)-(2-fluoropyridin-3-yl)methanol | 0.59 mol, 140 g | ClC1=C(C=CC=C1)C(O)C=1C(=NC=CC1)F | C12H9ClFNO
reactant | potassium bromide | 0.048 mol, 57.1 mL | [Br-].[K+]
reactant | sodium hypochlorite | 0.85 mol, 403 mL | Cl[O-].[Na+]
reactant | sodium bicarbonate | 0.24 mol, 20.3 g | C([O-])(O)=O.[Na+]
reactant | 4-acetylpyridine | 0.88 mol, 107 g | C(C)(=O)C1=CC=NC=C1 | C7H7NO
reactant | lithium hydroxide | 1.17 mol, 28.2 g | [OH-].[Li+]
reactant | sodium chloride | 1.3 L | [Cl-].[Na+]
reactant | phosphoric acid | 0.58 mol, 67.4 g | P(O)(O)(O)=O | H3O4P
reactant | potassium carbonate | 0.356 mol, 49.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 1.1 L | ClCCl | CH2Cl2
solvent | water | 403 mL | O | H2O
solvent | water | 714 mL | O | H2O
solvent | dichloromethane | 1.4 L | ClCCl | CH2Cl2
product | (2-chlorophenyl)-[2-(2-hydroxy-2-pyridin-4-yl-vinyl)pyridin-3-yl]methanone | ClC1=C(C=CC=C1)C(=O)C=1C(=NC=CC1)C=C(C1=CC=NC=C1)O | C19H13ClN2O2
